US04192816
Rac.-3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile
A mixture of 581 mg (2.02 mmoles) of rac.-6-acetyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile and 418 mg (3.03 mmoles) of K2CO3 in 17 ml of methanol and 3 ml of water was stirred at room temperature for 64 hr. The resulting mixture was poured into water and worked-up with ether in the usual manner giving 480 mg of a tan solid. This material was triturated with cold ether to give 340 mg (69%) of a tan solid. A sample of this material was recrystallized from toluene yielding pure rac. 3,4-dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile as a tan solid mp 162-163°.

reactant | rac.-6-acetyloxy-3,4-dihydro-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile | 2.02 mmoles, 581 mg | C(C)(=O)OC=1C(=C(C2=C(CCC(O2)(CC#N)C)C1C)C)C | C17H21NO3
reactant | K2CO3 | 3.03 mmoles, 418 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ether | CCOCC | C4H10O
solvent | methanol | 17 ml | CO | CH4O
solvent | water | 3 ml | O | H2O
product | Rac.-3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-acetonitrile | 480 mg | OC=1C(=C(C2=C(CCC(O2)(CC#N)C)C1C)C)C | C15H19NO2
